US06960588B1
A6. 3-[4-(3-Hydroxyprop-1-ynyl)phenyl]prop-2-yn-1-ol
A solution of 1,4-dibromobenzene (1.18 g, 5.0 mmol) in n-propylamine (15 ml) is admixed successively with Pd(Ph3P)4 (116 mg, 2%), CuI (28 mg, 3%) and propargyl alcohol (0.9 ml, 15 mmol) and stirred at RT for 1 h and then at reflux for 7 h. More Pd(Ph3P)4 (58 mg, 1%), CuI (14 mg, 1.5%) and propargyl alcohol (0.45 ml, 7.5 mmol) are then added, and the mixture is stirred at reflux for a further 8 h. After cooling, the reaction mixture is filtered off with suction over kieselguhr and the filter cake is washed with ethyl acetate (20 ml). The organic phase is concentrated under reduced pressure. Further purification is carried out by chromatography [Tol/Ac (8:2)] over a silica gel column. This gives the title compound (0.84 g) as a colorless solid. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.22.

reactant | 1,4-dibromobenzene | 5.0 mmol, 1.18 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | propargyl alcohol | 15 mmol, 0.9 ml | C(C#C)O | C3H4O
reactant | propargyl alcohol | 7.5 mmol, 0.45 ml | C(C#C)O | C3H4O
solvent | n-propylamine | 15 ml | C(CC)N | C3H9N
catalyst | Pd(Ph3P)4 | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 28 mg | [Cu]I
catalyst | Pd(Ph3P)4 | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 14 mg | [Cu]I
product | 3-[4-(3-Hydroxyprop-1-ynyl)phenyl]prop-2-yn-1-ol | 0.84 g | OCC#CC1=CC=C(C=C1)C#CCO | C12H10O2
